US06828330B2
A solution of sodium sulfide.nanohydrate (1.15 g, 4.9 mmol) in methanol-water (ca. 10 mL, 1:1) is warmed on a hot plate. To this solution is added elemental sulfur (150 mg, 4.6 mmol). Heating is continued for 15 min before the solution is poured into a separate solution of 1.0 g (4.6 mmol) of methyl 4-chloro-3-nitrobenzoate (see: Kuene, J. Am. Chem. Soc. 1962, 48, 837.) in MeOH (5.0 mL). The mixture is stirred for 30 min, followed by cooling in a refrigerator overnight. The solid precipitate is filtered, washed with water and methanol, and dried in vacuo at 50° C. to afford 650 mg (65%) of dimethyl 4,4′-dithio-bis-(3-nitrobenzoate) as a yellow solid: 1H NMR (400 MHz, CDCl3) δ 9.0, 8.2, 7.9, 4.0.

reactant | sodium sulfide | [S-2].[Na+].[Na+]
reactant | sulfur | 4.6 mmol, 150 mg | [S] | S
reactant | methyl 4-chloro-3-nitrobenzoate | 4.6 mmol, 1.0 g | ClC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | methanol water | ca. 10 mL | CO.O
solvent | MeOH | 5.0 mL | CO | CH4O
product | dimethyl 4,4′-dithio-bis-(3-nitrobenzoate) | 650 mg, 65% | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1SSC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H12N2O8S2
